US04382939
9-Chloro-1,2,3,4-tetrahydro-8-methyl-3-(2-oxopropyl)-5H-[1]benzo-pyrano[3,4-c]pyridin-5-one
Prepared by the method described for example 26 from 9-chloro-1,2,3,4-tetrahydro-8-methyl-5H-[1]benzopyrano[3,4-c]pyridin-5-one (1.6 g, 0.006 moles), triethylamine (1 ml, 0.007 moles) and 1-chloro-2-propanone (0.57 g, 0.006 moles). Recrystallization from isopropanol gave the product (0.5 g), mp 172°-175° C.

reactant | 9-chloro-1,2,3,4-tetrahydro-8-methyl-5H-[1]benzopyrano[3,4-c]pyridin-5-one | 0.006 moles, 1.6 g | ClC=1C(=CC2=C(C1)C1=C(CNCC1)C(O2)=O)C | C13H12ClNO2
reactant | triethylamine | 0.007 moles, 1 ml | C(C)N(CC)CC | C6H15N
reactant | 1-chloro-2-propanone | 0.006 moles, 0.57 g | ClCC(C)=O | C3H5ClO
product | 9-Chloro-1,2,3,4-tetrahydro-8-methyl-3-(2-oxopropyl)-5H-[1]benzo-pyrano[3,4-c]pyridin-5-one | 0.5 g | ClC=1C(=CC2=C(C1)C1=C(CN(CC1)CC(C)=O)C(O2)=O)C | C16H16ClNO3
